US04120971
Step 2 Preparation of (S)-4-Methyl-4-(3,4-diformyloxybenzyl)-2,5-oxazolidinedione (B)
Phosphorous tribromide (0.81 g, 3 mmol) in dry ethylether (5 ml) is added dropwise to a solution of (S)-N-carbobenzyloxy-3-(3,4-diformyloxyphenyl)-2-methylalanine (0.4 g, 1 mmol) in dry ethylether (10 ml). After stirring 3 hours at 20°-25° under dry nitrogen, the reaction mixture is diluted with dry petroleum ether (40°-60°) (100 ml) and refrigerated 18 hours. The solvent is decanted from the gum which has separated. The gum is dissolved in methylene chloride (2 ml) and precipitated with ethyl ether as a gum. The product (B) is separated and dried 0.1 mm/25° for 3 hours over phosphorous pentoxide to afford 0.24 g (80%) of gummy solid.

reactant | Phosphorous tribromide | 3 mmol, 0.81 g | P(Br)(Br)Br | Br3P
reactant | (S)-N-carbobenzyloxy-3-(3,4-diformyloxyphenyl)-2-methylalanine | 1 mmol, 0.4 g | C(=O)(OCC1=CC=CC=C1)N[C@@](CC1=CC(=C(C=C1)OC=O)OC=O)(C(=O)O)C | C20H19NO8
solvent | ethylether | 5 ml | C(C)OCC | C4H10O
solvent | ethylether | 10 ml | C(C)OCC | C4H10O
product | (S)-4-Methyl-4-(3,4-diformyloxybenzyl)-2,5-oxazolidinedione | 0.24 g, 80% | C[C@]1(NC(OC1=O)=O)CC1=CC(=C(C=C1)OC=O)OC=O | C13H11NO7
